US05155113
Preparation of 4-(4-benzyloxybenzoyloxy)-5-chloro-2-pyridone
A 3.00 g quantity of 5-chloro-4-hydroxy-2-pyridone was suspended in 100 ml of pyridine. To the suspension was added 5.59 g of 4-benzyloxybenzoyl chloride with stirring at room temperature. The reaction mixture was stirred at 90° C. for 1.5 hours. The solvent was distilled off and ethyl acetate was added to the residue. The mixture was stirred at room temperature overnight. The ethyl acetate layer was concentrated and the residue was subjected to silica gel column chromatography using as an eluent 2% methanol-chloroform, giving 770 mg of the title compound in a yield of 10.5%.

reactant | 5-chloro-4-hydroxy-2-pyridone | ClC=1C(=CC(NC1)=O)O | C5H4ClNO2
reactant | 4-benzyloxybenzoyl chloride | 5.59 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)Cl)C=C1 | C14H11ClO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-benzyloxybenzoyloxy)-5-chloro-2-pyridone | 770 mg, yield of 10.5% | C(C1=CC=CC=C1)OC1=CC=C(C(=O)OC2=CC(NC=C2Cl)=O)C=C1 | C19H14ClNO4
